* source LOWPASS_HIGHPASS_BANDPASS
C_C1         N04639 N04597  1n  TC=0,0 
R_R8         N04563 N05021  1k TC=0,0 
R_R6         N04775 N04785  10k TC=0,0 
V_V1         N04639 0  AC 1
+SIN 0 5 500 0 0 0
E_U4         N04785 0 VALUE {LIMIT(V(N04775,N04807)*1E6,-15V,+15V)}
R_R10         0 N05085  1k TC=0,0 
R_R3         N04553 N04563  10k TC=0,0 
C_C2         0 N04807  1n  TC=0,0 
E_U5         N05139 0 VALUE {LIMIT(V(N05085,N05021)*1E6,-15V,+15V)}
R_R2         0 N04553  1k TC=0,0 
E_U3         N04563 0 VALUE {LIMIT(V(N04553,N04597)*1E6,-15V,+15V)}
R_R5         0 N04775  1k TC=0,0 
R_R11         N05085 N05139  2k TC=0,0 
R_R7         N04639 N04807  100k TC=0,0 
R_R9         N04785 N05021  1k TC=0,0 
R_R12         0 N04597  1k TC=0,0 
